US09447035B2
Preparation of (S)-3-[4-(2,6-dichlorobenzoylamino)phenyl]-2-[[[1-[2-[3-[2-[2-[2-[2-[2-[2-[2-[2-[3-(2,5-dioxo-2,5-dihydropyrrol-1-yl)propionylamino]-ethoxy]ethoxy]ethoxy]ethoxy]ethoxy]ethoxy]ethoxy]ethoxy]propionylamino]ethyl]cyclopentyl]carbonyl]amino]propionic acid; VLA-4 Ligand Reagent 2
The title compound was prepared using a similar procedure as described in Example 1, Step 11, starting from (S)-2-[[1-(2-aminoethyl)cyclopentanecarbonyl]amino]-3-[4-(2,6-dichlorobenzoylamino)phenyl]propionic acid (607 mg, 1.0 mmol), 3-[2-[2-[2-[2-[2-[2-[2-[2-[3-(2,5-dioxo-2,5-dihydro-pyrrol-1-yl)propionylamino]- ethoxy]ethoxy]ethoxy]ethoxy]ethoxy]ethoxy]ethoxy]ethoxy]propionic acid-2,5-dioxo-pyrrolidin-1-yl ester (689 mg, 1.0 mmol), and DIPEA (388 mg, 522 uL, 3.0 mmol), and after HPLC purification, resulted in a light yellow solid (788 mg, 74%). ES(+)-HRMS m/e calcd. for C50H69Cl2N5O16 (M+H)+ 1066.4189, obsd. 1066.4182.

reactant | (S)-2-[[1-(2-aminoethyl)cyclopentanecarbonyl]amino]-3-[4-(2,6-dichlorobenzoylamino)phenyl]propionic acid | 1.0 mmol, 607 mg | NCCC1(CCCC1)C(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)NC(C1=C(C=CC=C1Cl)Cl)=O | C24H27Cl2N3O4
reactant | 3-[2-[2-[2-[2-[2-[2-[2-[2-[3-(2,5-dioxo-2,5-dihydro-pyrrol-1-yl)propionylamino]- ethoxy]ethoxy]ethoxy]ethoxy]ethoxy]ethoxy]ethoxy]ethoxy]propionic acid-2,5-dioxo-pyrrolidin-1-yl ester | 1.0 mmol, 689 mg | O=C1N(C(CC1)=O)OC(CCOCCOCCOCCOCCOCCOCCOCCOCCNC(CCN1C(C=CC1=O)=O)=O)=O | C30H47N3O15
reactant | DIPEA | 3.0 mmol, 522 uL, 388 mg | CCN(C(C)C)C(C)C | C8H19N
product | (S)-3-[4-(2,6-dichlorobenzoylamino)phenyl]-2-[[[1-[2-[3-[2-[2-[2-[2-[2-[2-[2-[2-[3-(2,5-dioxo-2,5-dihydropyrrol-1-yl)propionylamino]-ethoxy]ethoxy]ethoxy]ethoxy]ethoxy]ethoxy]ethoxy]ethoxy]propionylamino]ethyl]cyclopentyl]carbonyl]amino]propionic acid | ClC1=C(C(=O)NC2=CC=C(C=C2)C[C@@H](C(=O)O)NC(=O)C2(CCCC2)CCNC(CCOCCOCCOCCOCCOCCOCCOCCOCCNC(CCN2C(C=CC2=O)=O)=O)=O)C(=CC=C1)Cl | C50H69Cl2N5O16
